US07635715B2
A solution of sodium nitrite (4.82 g, 69.9 mmol) in water (25 mL) was added dropwise via addition funnel to a solution of 2-amino-3-chlorobenzoic acid (8.0 g, 46.6 mmol) in DMSO (25 mL) and 30% H2SO4 (75 mL) that had previously been cooled to 0° C. The mixture was stirred at 0° C. for 1 hour, at which time a solution of potassium iodide (19.3 g, 117 mmol) in water (25 mL) was added via addition funnel. The ice bath was removed, and the mixture was stirred for 2 hours. EtOAc (200 mL) was added, and the mixture was washed with 2N sodium sulfite (3×). The organic layer was then washed once with water and once with brine, dried over anhydrous MgSO4, and concentrated in vacuo to give 8.83 g of 3-chloro-2-iodobenzoic acid as a yellow solid.

reactant | sodium nitrite | 69.9 mmol, 4.82 g | N(=O)[O-].[Na+]
reactant | 2-amino-3-chlorobenzoic acid | 46.6 mmol, 8.0 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | potassium iodide | 117 mmol, 19.3 g | [I-].[K+]
solvent | water | 25 mL | O | H2O
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | H2SO4 | 75 mL | OS(=O)(=O)O | H2O4S
solvent | water | 25 mL | O | H2O
product | 3-chloro-2-iodobenzoic acid | 8.83 g | ClC=1C(=C(C(=O)O)C=CC1)I | C7H4ClIO2
